US09339503B2
2-Methylsulfanyl-5,6,7,8-tetrahydro-3H-quinazolin-4-one
2-Methylsulfanyl-5,6,7,8-tetrahydroquinazolin-4-ylamine (5.09 g; 23.145 mmol), 3-methyl-1-nitrosooxybutane (11.6 ml; 86.79 mmol) and trifluoroacetic acid (23.2 ml; 300.89 mmol) are dissolved in chloroform (300 ml), the pale-yellow solution is warmed to 60° C. and stirred for 2 h. The reaction mixture is diluted with dichloromethane and extracted with 10% K2CO3. The aqueous phase is separated off and back-extracted once with dichloromethane, NaCl is subsequently added, and the mixture is extracted again with ethyl acetate. The combined organic phases are dried over Na2SO4, filtered and evaporated. The crude product obtained in this way is adsorbed onto sorbent and purified by chromatography on a SI50 silica-gel column of a Combiflash Companion XL. After evaporation of the product fractions, the crystalline residue is triturated with diethyl ether, filtered off by suction and dried in vacuo; yield: 2.0 g (57%), crystals.

reactant | 2-Methylsulfanyl-5,6,7,8-tetrahydroquinazolin-4-ylamine | 23.145 mmol, 5.09 g | CSC1=NC=2CCCCC2C(=N1)N | C9H13N3S
reactant | 3-methyl-1-nitrosooxybutane | 86.79 mmol, 11.6 ml | CC(CCON=O)C | C5H11NO2
reactant | trifluoroacetic acid | 300.89 mmol, 23.2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-Methylsulfanyl-5,6,7,8-tetrahydro-3H-quinazolin-4-one | CSC1=NC=2CCCCC2C(N1)=O | C9H12N2OS
